US05409886
To 20 ml of dichloromethane were added 3.0 g of N-[1-methyl-1-(3-chloro-5-fluorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)amine and 3.5 g of pyridine, and 3.0 g of (2-fluorophenyl)acetyl chloride was then added dropwise thereto at 5° to 10° C. After stirring at room temperature for 1 hour, a saturated aqueous sodium hydrogencarbonate solution was added, followed by extraction with dichloromethane. After dried over anhydrous sodium sulfate, the solution was concentrated by evaporation, and the resulting oil was dissolved in 20 ml of ethyl acetate. Next, 10 ml of a 28% methanol solution of sodium methylate was added thereto, and after stirring under reflux for 15 minutes, the temperature of the solution was returned to room temperature and water was then added, followed by extraction with ethyl acetate. Afterward, the solution was washed with 12% hydrochloric acid and a saturated aqueous solution of sodium hydrogencarbonate, and then dried over anhydrous sodium sulfate. Next, the solution was condensed by an evaporator, and then subjected to silica gel chromatography to obtain 2.2 g of 1-[1-methyl-1-(3-chloro-5-fluorophenyl)ethyl]-4,5-dimethyl-3-(2-fluorophenyl)-3-pyrroline-2-one.

reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | N-[1-methyl-1-(3-chloro-5-fluorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)amine | 3.0 g | CC(C)(C1=CC(=CC(=C1)F)Cl)NC(C(C)=O)C | C13H17ClFNO
reactant | (2-fluorophenyl)acetyl chloride | 3.0 g | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 3.5 g | N1=CC=CC=C1 | C5H5N
product | 1-[1-methyl-1-(3-chloro-5-fluorophenyl)ethyl]-4,5-dimethyl-3-(2-fluorophenyl)-3-pyrroline-2-one | 2.2 g | CC(C)(C1=CC(=CC(=C1)F)Cl)N1C(C(=C(C1C)C)C1=C(C=CC=C1)F)=O | C21H20ClF2NO
